US04021479
44 gm (0.33 mol) of aluminum chloride were added in small portions to a solution of 51.7 gm (0.3 mol) of 4-fluoro-biphenyl and 66.6 gm (0.33 mol) of bromoacetyl bromide in 150 cc of ethylene chloride, while cooling the solution on an ice-salt bath, and the mixture was then stirred at room temperature for two hours. Thereafter, the reaction mixture was admixed with ice and hydrochloric acid, and the organic phase was separated, washed with water, dried with sodium sulfate and evaporated. The residue was recrystallized from 250 cc of carbon tetrachloride, yielding 53 gm (60% of theory) of 2-bromo-4'-(4-fluoro-phenyl)-acetophenone, m.p. 102°-103° C.

reactant | aluminum chloride | 0.33 mol, 44 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-fluoro-biphenyl | 0.3 mol, 51.7 gm | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
reactant | bromoacetyl bromide | 0.33 mol, 66.6 gm | BrCC(=O)Br | C2H2Br2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene chloride | 150 cc | C(CCl)Cl | C2H4Cl2
product | 2-bromo-4'-(4-fluoro-phenyl)-acetophenone | 53 gm, 60% | BrCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C14H10BrFO
